US03968142
While cooling well, 17.9 g of 2-(3-chloro-4-cyclohexylphenyl)-glutaric acid are dissolved in 90 ml of 100% sulfuric acid and the solution is kept overnight at 35°C, then cautiously poured out over ice and the aqueous mixture is extracted with ethyl acetate and evaporated. The remaining crystals are recrystallized from toluene, to yield 12.2 g of 4-oxo-6-cyclohexyl-7-chloro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid melting at 204°-205°C, of the formula ##SPC8##

reactant | 2-(3-chloro-4-cyclohexylphenyl)-glutaric acid | 17.9 g | ClC=1C=C(C=CC1C1CCCCC1)C(C(=O)O)CCC(=O)O | C17H21ClO4
solvent | sulfuric acid | 90 ml | S(O)(O)(=O)=O | H2O4S
product | 4-oxo-6-cyclohexyl-7-chloro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 12.2 g | O=C1CCC(C2=CC(=C(C=C12)C1CCCCC1)Cl)C(=O)O | C17H19ClO3
